Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Nafcillin / Lisinopril / difficult intubation requires 
LMA
 
Attending: ___.
 
Chief Complaint:
right ___ finger gangrene
 
Major Surgical or Invasive Procedure:
R ___ digit amputation

 
History of Present Illness:
___ w/ h/o CAD s/p CABG x4, multiple cardiac stents, ESRD on PD, 
DM2, and LLE osteomyelitis with gangrene of the ___ finger of 
the right hand secondary to atheroembolic disease. 
 
Past Medical History:
PMH: CAD s/p CABG and multiple cath/stents, DM2 c/b retinopathy 
and neuropathy, HTN, HL, dCHF, ESRD on PD, obesity, LLE charcot 
ankle c/b osteomyelitis ___ s/p debridement, dieulafoy's lesion 
c/b massive GI bleed

PSH: CABG x5v ___, PD catheter placement 

 
Social History:
___
Family History:
significant for CAD
 
Physical Exam:
Vitals: 98.7 78 102/51 18 100 RA
Gen: NAD, AOx3
CV: RRR, no murmurs
Pulm: CTAB, unlabored
Abd: soft, nontender, nondistended, pd cath in place
Ext: WWP lower extremities, minimal edema. BUE faintly palpable
radial pulses  RUE: ___ digit amp site CDI, no erythema, ___ 
digit with ulceration on lateral aspect and ___ and ___ digit w/ 
dark purple discoloration at the distal aspects and slow 
capillary refill, tender to palpation
 
Pertinent Results:
___ 10:38AM   K+-3.8
 
Brief Hospital Course:
Patient was admitted to ___ for an elective right hand ___ 
digit amputation. The procedure was uncomplicated, please see 
the dictated operative report for details of the procedure. She 
was transferred from the PACU in good contion and admitted to 
the floor for observation. 

A nephrology consult was placed post-operatively for management 
of her peritoneal dialysis. She underwent peritoneal dialysis on 
the floor without complication. On POD 1 she was ambulatory, 
tolerating a regular diet and her pain was well controlled on 
oral pain medications. The wound was examined and was clean, dry 
and intact with no evidence of erythema. She was discharged home 
on POD 1 in good condition. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 40 mg PO DAILY 
2. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
3. Ezetimibe 10 mg PO DAILY 
4. Ferrous GLUCONATE 324 mg PO DAILY 
5. Lorazepam 1 mg PO DAILY:PRN anxiety 
6. Nystatin Cream 1 Appl TP BID 
7. Midodrine 10 mg PO BID 
8. Sertraline 100 mg PO DAILY 
9. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
10. Warfarin 2 mg PO DAILY16 
Please start this dose on ___. Follow INR closely while on 
coumadin and adjust dose as needed 
11. Senna 1 TAB PO BID:PRN constipation 
12. Glargine 12 Units Breakfast
Glargine 36 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
13. Nephrocaps 1 CAP PO DAILY 
14. Aspirin 325 mg PO DAILY 
15. Gabapentin 100 mg PO BID 
16. Omeprazole 40 mg PO DAILY 
17. Metoclopramide 5 mg PO QIDACHS 
18. Docusate Sodium 100 mg PO BID 
19. Gentamicin 0.1% Cream 1 Appl TP TID 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Ezetimibe 10 mg PO DAILY 
3. Ferrous GLUCONATE 324 mg PO DAILY 
4. Gabapentin 100 mg PO BID 
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0
6. Glargine 12 Units Breakfast
Glargine 36 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Lorazepam 1 mg PO DAILY:PRN anxiety 
8. Metoclopramide 5 mg PO QIDACHS 
9. Midodrine 10 mg PO BID 
10. Nephrocaps 1 CAP PO DAILY 
11. Omeprazole 40 mg PO DAILY 
12. Rosuvastatin Calcium 40 mg PO DAILY 
13. Sertraline 100 mg PO DAILY 
14. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
15. Minocycline 100 mg PO BID Duration: 7 Days 
RX *minocycline [Dynacin] 100 mg 1 tablet(s) by mouth twice a 
day Disp #*13 Capsule Refills:*0
16. Docusate Sodium 100 mg PO BID 
17. Nystatin Cream 1 Appl TP BID 
18. Senna 1 TAB PO BID:PRN constipation 
19. Warfarin 2 mg PO DAILY16 
20. Gentamicin 0.1% Cream 1 Appl TP TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right hand ___ digit gangrene

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
MEDICATIONS: 
Take your medications as prescribed in your discharge 
Take pain medication as needed / as prescribed
Remember that narcotic pain medication can be constipating.  
Increase your fiber intake 
ACTIVITY: 
You should avoid using your right hand as much as possible
You should keep this amputation site elevated when ever 
possible. 
No heavy lifting greater than 20 pounds for the next ___ days. 
BATHING/SHOWERING: 
You may shower tomorrow
No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 
WOUND CARE:
Your sutures will be removed at your follow up appointment in 
3 weeks.
When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.
CAUTIONS:
If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
Low fat, low cholesterol / if you are diabetic  follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___
Bleeding, redness of, or drainage from your hand wound
New pain, numbness or discoloration of the skin on the 
effected hand
Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___